US08703758B2
A) tert-butyl(2,4-dimethoxyphenyl)carbamate
To a solution of tribromoindium (120 mg) and di-tert-butyl dicarbonate (7.1 g) in THF (50 mL) was added 2,4-dimethoxyaniline (5.0 g). The reaction mixture was stirred at room temperature for 30 min and extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (8.0 g).

reactant | di-tert-butyl dicarbonate | 7.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2,4-dimethoxyaniline | 5.0 g | COC1=C(N)C=CC(=C1)OC | C8H11NO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | tribromoindium | 120 mg | Br[In](Br)Br
product | tert-butyl(2,4-dimethoxyphenyl)carbamate | 8.0 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OC)OC)=O | C13H19NO4
